US04446133
In 50 ml of chloroform was dissolved 2.9 g (0.01 mole) of 1-(4-methoxyphenyl)-4-diethylcarbamoylpiperazine, and the solution was saturated with gaseous hydrogen chloride and stirred at 40° C. for 3 hours. The solvent was removed by distillation under reduced pressure. The residue was mixed with 30 ml of a mixed solvent of ethyl acetate and methanol. The insoluble substance was removed, and the precipitated crystal was recovered by filtration to obtain 1.7 g of 1-(4-methoxyphenyl)-4-diethylcarbamoylpiperazine hydrochloride having a melting point of 174° to 184° C. The yield was 52.1%. The elementary analysis values are as follows.

reactant | 1-(4-methoxyphenyl)-4-diethylcarbamoylpiperazine | 0.01 mole, 2.9 g | COC1=CC=C(C=C1)N1CCN(CC1)C(N(CC)CC)=O | C16H25N3O2
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-methoxyphenyl)-4-diethylcarbamoylpiperazine hydrochloride | 1.7 g, yield was 52.1% | Cl.COC1=CC=C(C=C1)N1CCN(CC1)C(N(CC)CC)=O | InChI=1S/C16H25N3O2.ClH/c1-4-17(5-2)16(20)19-12-10-18(11-13-19)14-6-8-15(21-3)9-7-14;/h6-9H,4-5,10-13H2,1-3H3;1H
